US08003647B2
4-(6-Amino-3-cyanoindol-1-yl)benzoic acid ethyl ester
To a solution of 4-(3-cyano-6-nitroindol-1 yl)benzoic acid ethyl ester (0.11 g) in a mixed solvent of tetrahydrofuran (2 mL) and methanol (2 mL) was added palladium-carbon powder (0.04 g) under an argon atmosphere, and this mixture was stirred at room temperature under a hydrogen atmosphere for 7 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give the title compound (0.070 g).

reactant | 4-(3-cyano-6-nitroindol-1 yl)benzoic acid ethyl ester | 0.11 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C#N)=O | C18H13N3O4
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 0.04 g | [C].[Pd]
solvent | methanol | 2 mL | CO | CH4O
product | 4-(6-Amino-3-cyanoindol-1-yl)benzoic acid ethyl ester | 0.070 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC=C(C=C12)N)C#N)=O | C18H15N3O2
